US05270309
Treatment of 3-nitrobenzaldehyde (8.2 g) with propyltriphenyl phosphonium bromide (25 g) and n-butyllithium in hexane (64.9 mmol), as described in Example 1a, gave 3-(2-butenyl)nitrobenzene (9.3 g), δ (360 MHz, CDCl3) 1.1 (3H, t, CH3), 2.4 (2H, m, CH2CH3). 5.8 (1H, m, =CH--CH2), 6.3 (1H, m, CH=CH2), 7.2 to 8.0 (4H, m, ArH). Treatment of the above 3-(2-butenyl)nitrobenzene (9.3 g) with hydrogen and palladium on carbon (10%, 0.93 g) as described in Example 1a, gave 3-butylaniline (7.0 g), δ (60 MHz, CDCl2) 0.9 (3H, t, CH3), 1.4 (4H, m, CH2CH2CH3), 2.5 (2H, t, ARCH2), 3.4 (2H, bs, NH2 ) and 6.2 to 7.0 (4H, m, ArH).

reactant | 3-nitrobenzaldehyde | 8.2 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | propyltriphenyl phosphonium bromide | 25 g | [Br-].C(CC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 64.9 mmol | CCCCCC | C6H14
product | 3-(2-butenyl)nitrobenzene | 9.3 g | C(C=CC)C=1C=C(C=CC1)[N+](=O)[O-] | C10H11NO2
